US06919404B2
Synthesis of 1-[4-vinylphenoxy]-2,4-dinitrobenzene
A mixture of 2,4-dinitrofluorobenzene (6.38 g, 34 mmol), 4-vinylphenol (4.32 g, 36 mmol), 4.97 g K2CO3 and 2-3 crystals of BHT inhibitor was dissolved in 75 ml NMP and stirred at 40° C. under nitrogen for 4 hr. The reaction mixture was poured into a separatory funnel containing 150 ml water and extracted 3×100 mls with ethyl acetate. The combined organics were washed with 100 ml 10% KOH, and brine, dried with anhydrous MgSO4 and concentrated. The residue was recrystallized from 70% ethyl acetate in hexane yielding 9.5 g product.

reactant | 2,4-dinitrofluorobenzene | 34 mmol, 6.38 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | 4-vinylphenol | 36 mmol, 4.32 g | C(=C)C1=CC=C(C=C1)O | C8H8O
reactant | K2CO3 | 4.97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | NMP | 75 ml | CN1CCCC1=O | C5H9NO
product | 1-[4-vinylphenoxy]-2,4-dinitrobenzene | C(=C)C1=CC=C(OC2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=C1 | C14H10N2O5
